US07312234B2
AMD9845: Preparation of N-(4-{[(1H-benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-methyl}-benzyl)-benzenesulfonamide
A solution of N-(4-{[(1-benzenesulfonyl-1H-benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-methyl}-benzyl)-benzenesulfonamide (AMD9830) (161 mg, 0.234 mmol) in saturated HBr/AcOH (3 mL) was stirred at room temperature for 3.5 h, then diethyl ether (20 mL) was added to give a colourless precipitate. The supernatant was decanted, and the residue was partitioned between CH2Cl2 (10 mL) and saturated NaHCO3(aq) (15 mL). The basic aqueous phase was extracted with CH2Cl2 (10 mL), and the combined organic phases were dried (MgSO4), filtered and concentrated in vacuo. Purification of the crude material by column chromatography on silica gel (500:5:1 CH2Cl2/MeOH/NH4OH) gave AMD9845 (59 mg, 44%) as a yellow foam. 1H NMR (CDCl3) δ 1.68 (m, 1H), 1.99 (m, 2H), 2.24 (m, 1H), 2.67-2.91 (m, 2H), 3.68 (s, 2H), 3.86 (d, 1H, J=17 Hz), 4.05 (m, 3H), 4.14 (d, 1H, J=17 Hz), 4.87 (m, 1H), 7.01 (d, 2H, J=7.8 Hz), 7.18 (m, 3H), 7.28 (m, 2H), 7.37-7.60 (m, 6H), 7.80 (m, 2H), 8.68 (m, 1H); 13C NMR (CDCl3) δ 22.08, 24.18, 29.90, 47.66, 49.21, 54.47, 61.26, 122.30, 123.03, 127.75, 128.54, 129.65, 129.73, 133.29, 135.47, 135.74, 138.01, 139.87, 140.65, 147.63, 156.87, 158.03. ES-MS m/z 538 (M+H). Anal. Calcd. for C31H31N5SO2.0.46CH2Cl2: C, 65.52; H, 5.58; N, 12.14. Found: C, 65.56; H, 5.60; N, 12.09.

reactant | N-(4-{[(1-benzenesulfonyl-1H-benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-methyl}-benzyl)-benzenesulfonamide | 0.234 mmol, 161 mg | C1(=CC=CC=C1)S(=O)(=O)N1C(=NC2=C1C=CC=C2)CN(C2CCCC=1C=CC=NC21)CC2=CC=C(CNS(=O)(=O)C1=CC=CC=C1)C=C2 | C37H35N5O4S2
reactant | diethyl ether | 20 mL | C(C)OCC | C4H10O
solvent | HBr AcOH | 3 mL | Br.CC(=O)O
product | N-(4-{[(1H-benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-methyl}-benzyl)-benzenesulfonamide | N1C(=NC2=C1C=CC=C2)CN(C2CCCC=1C=CC=NC21)CC2=CC=C(CNS(=O)(=O)C1=CC=CC=C1)C=C2 | C31H31N5O2S
